US05387710
A mixture of 6-methoxy-2-(methoxycarbonylamino)indan-1-one ethylene dithioacetal (0.12 g), Raney nickel (suspension in water; 5 ml), and ethanol (12 ml) was refluxed for 0.5 hour. The mixture was filtered and the catalyst was washed with hot ethanol. The filtrate and washings were combined and concentrated in vacuo. Purification of the residue by column chromatography on silica gel (eluent; chloroform) gave 5-methoxy-N-methoxycarbonylindan-2-amine (0.08 g).

reactant | 6-methoxy-2-(methoxycarbonylamino)indan-1-one ethylene dithioacetal | 0.12 g | C1CSC2(C(CC3=CC=C(C=C23)OC)NC(=O)OC)S1 | C14H17NO3S2
catalyst | Raney nickel | 5 ml | [Ni] | Ni
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 5-methoxy-N-methoxycarbonylindan-2-amine | 0.08 g | COC=1C=C2CC(CC2=CC1)NC(=O)OC | C12H15NO3
